US04132726
(1) Preparation of 4-acetoxycyclopent-2-en-1-one
144 milligrams of optically inactive 3-acetoxy-5-hydroxycyclopent-1-ene prepared as in Example 1 and 460 milligrams of 2,3-dichloro-5,6-dicyano-p-benzoquinone (DDQ) were dissolved in 5 milliliters of dioxane, after which the resulting solution was heated with stirring for 48 hours at 60° C. The precipitate separating out after the reaction was separated by filtration, and the filtrate was concentrated under reduced pressure to obtain a crude product.

reactant | 3-acetoxy-5-hydroxycyclopent-1-ene | C(C)(=O)OC1C=CC(C1)O | C7H10O3
reactant | 2,3-dichloro-5,6-dicyano-p-benzoquinone | 460 milligrams | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dioxane | 5 milliliters | O1CCOCC1 | C4H8O2
product | 4-acetoxycyclopent-2-en-1-one | C(C)(=O)OC1C=CC(C1)=O | C7H8O3
